US07192968B2
(1S,2R,4R)-N1-[(5-Fluoroindol-2-yl)carbonyl]-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4R)-N1-tert-Butoxycarbonyl-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine was treated with a 4N dioxane solution of hydrochloric acid and then condensed with 5-fluoroindole-2-carboxylic acid in a similar manner to Example 118 to obtain the title compound.

reactant | (1S,2R,4R)-N1-tert-Butoxycarbonyl-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)C(=O)OC)NC(=O)C=1SC=2CN(CCC2N1)C | C21H32N4O5S
reactant | hydrochloric acid | Cl | ClH
reactant | 5-fluoroindole-2-carboxylic acid | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | (1S,2R,4R)-N1-[(5-Fluoroindol-2-yl)carbonyl]-4-methoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.FC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H]1[C@@H](C[C@@H](CC1)C(=O)OC)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C25H28FN5O4S.ClH/c1-31-8-7-18-21(12-31)36-24(30-18)23(33)29-19-10-13(25(34)35-2)3-5-17(19)28-22(32)20-11-14-9-15(26)4-6-16(14)27-20;/h4,6,9,11,13,17,19,27H,3,5,7-8,10,12H2,1-2H3,(H,28,32)(H,29,33);1H/t13-,17+,19-;/m1./s1
